US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)benzamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and benzoyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.71 (t, J=7.33 Hz, 3H) 1.29-1.39 (m, 2H) 2.26 (t, J=6.82 Hz, 2H) 6.80 (s, 1H) 7.55-7.67 (m, 4H) 7.76 (d, J=8.59 Hz, 2H) 7.85-7.94 (m, 2H) 7.98 (d, J=7.07 Hz, 2H) 8.11 (d, J=8.59 Hz, 2H) 8.17 (d, J=8.08 Hz, 1H) 10.62 (s, 1H); ESI-MS: m/z calc'd for C28H24N4O2S 480.58. found 481.2 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)benzamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C28H24N4O2S
